US08835431B2
a. 1-(3-Bromo-benzyl)-4,4-difluoro-piperidine (Intermediate 12a)
A mixture of 3-bromobenzyl bromide (3.43 g, 13.73 mmol), 4,4-difluoro-piperidine hydrochloride (2.20 g, 13.97 mmol), and potassium carbonate (4.82 g, 34.86 mmol) in acetonitrile (50 mL) was stirred at RT for 16 h. The mixture was filtered and evaporated, and the residue partitioned between water (30 mL) and EtOAc (3×30 mL). The combined organic extracts were washed with water (2×50 mL) and dried (Na2SO4). The solvent was evaporated to give the title compound as a colourless oil (3.96 g, 99%). LCMS (Method 1): Rt 1.89 min, m/z 290/292 [MH+].

reactant | 3-bromobenzyl bromide | 13.73 mmol, 3.43 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | 4,4-difluoro-piperidine hydrochloride | 13.97 mmol, 2.20 g | Cl.FC1(CCNCC1)F
reactant | potassium carbonate | 34.86 mmol, 4.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-(3-Bromo-benzyl)-4,4-difluoro-piperidine | 3.96 g, 99% | BrC=1C=C(CN2CCC(CC2)(F)F)C=CC1 | C12H14BrF2N
